US05770742
5-Bromo-3-(N-methylpyrrolidin-3-yl)-1H-indole
To a stirred solution of 3-(5-bromo-1H-indol-3-yl)-N-methylsuccinimide (1.3 g, 4.23 mmol) in anhydrous tetrahydrofuran (12 mL) at 0° C., was added lithium aluminum hydride (1M solution in tetrahydrofuran, 9.3 mL, 9.3 mmol). The resulting mixture was heated to reflux under argon for 2 hours, then cooled to 0° C. and quenched with cold water (2 mL) and ammonium hydroxide (15 mL). The resulting solution was stirred at room temperature for 1 hour and then filtered through celite. The filtrate was evaporated to dryness and the crude product extracted into ethyl acetate (250 mL). The solvent was once again evaporated and the product purified by silica gel chromatography using chloroform/ammonia(2M in methanol) (9:1) as the eluent to provide the title compound as a white solid (0.700 g, 64%). m.p. 152°-154° C.; HRMS (FAB): MH+ for C13H1579BrN2, calculated 279.0496, found 279.0478.

reactant | 3-(5-bromo-1H-indol-3-yl)-N-methylsuccinimide | 4.23 mmol, 1.3 g | BrC=1C=C2C(=CNC2=CC1)C1CC(=O)N(C1=O)C | C13H11BrN2O2
reactant | lithium aluminum hydride | 9.3 mmol, 1M, 9.3 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 5-Bromo-3-(N-methylpyrrolidin-3-yl)-1H-indole | 0.700 g, 64% | BrC=1C=C2C(=CNC2=CC1)C1CN(CC1)C | C13H15BrN2
